US05665271
Preparation of trans-4-(trans-4-(4-(3-fluoro-4-difluoromethoxyphenyl)butyl)cyclohexyl)-1-ethyl-1-silacyclohexane
130 ml (0.13 moles) of a THF solution of 1M of ethylmagnesium bromide was dropped in a mixed solution of 42.9 g (10 mmols) of 1-methoxy-4-(trans-4-(4-(3-fluoro-4-difluoromethoxyphenyl)butyl)cyclohexyl)-1-silacyclohexane and 30 ml of THF. The resultant product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was subjected to ordinary aftertreatments such as removal of solvent and salts, followed by isolation through chromatography to obtain 37.8 g (yield: 88.6%) of the intended trans isomer product.

reactant | ethylmagnesium bromide | 1M | C(C)[Mg]Br
reactant | 1-methoxy-4-(trans-4-(4-(3-fluoro-4-difluoromethoxyphenyl)butyl)cyclohexyl)-1-silacyclohexane | 10 mmols, 42.9 g | CO[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC1=CC(=C(C=C1)OC(F)F)F | C23H35F3O2Si
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 0.13 moles, 130 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(4-(3-fluoro-4-difluoromethoxyphenyl)butyl)cyclohexyl)-1-ethyl-1-silacyclohexane | yield: 88.6% | FC=1C=C(C=CC1OC(F)F)CCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CC | C24H37F3OSi
